US08859573B2
2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(2-oxo-2,3-dihydro-4-pyrimidinyl)oxy]methyl}benzonitrile
A mixture of 5-{[(2-chloro-4-pyrimidinyl)oxy]methyl}-2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}benzo-nitrile (2.30 g, 2.61 mmol), DABCO (0.147 g, 1.31 mmol) and potassium carbonate (1.08 g, 7.84 mmol) in a mixed solvents of 1,4-Dioxane (10 mL) and water (10 mL) was heated at 70° C. for 3 h, then concentrated and diluted with ethyl acetate (100 mL) and water (100 mL). Separated organic part was washed with water and brine, dried over sodium sulfate, concentrated. Purification via mass-directed autopreparation afforded the title product (1.0 g). LC-MS (ESI): m/z 420 [M−H]+; 3.89 min (ret time).

reactant | 5-{[(2-chloro-4-pyrimidinyl)oxy]methyl}-2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}benzo-nitrile | 2.61 mmol, 2.30 g | ClC1=NC=CC(=N1)OCC=1C=CC(=C(C#N)C1)OC1=CC(=C(C=C1)Cl)C(F)(F)F | C19H10Cl2F3N3O2
reactant | DABCO | 1.31 mmol, 0.147 g | C1CN2CCN1CC2 | C6H12N2
reactant | potassium carbonate | 7.84 mmol, 1.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-Dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | 2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(2-oxo-2,3-dihydro-4-pyrimidinyl)oxy]methyl}benzonitrile | 1.0 g | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)COC=1NC(N=CC1)=O)C(F)(F)F | C19H11ClF3N3O3
